US07713994B2
6-Bromo-1,1-dimethyl-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-1,4-dihydro-2H-isoquinolin-3-one
6-Bromo-1,1-dimethyl-1,4-dihydro-2H-isoquinolin-3-one (210 mg, 0.83 mmol) and dimethoxymethyl-dimethyl-amine (250 mg, 2.1 mmol) in (N,N-dimethylformamide) DMF (4 mL) is heated at 100° C. for 1 hour. After which the DMF is evaporated and toluene (6 mL) is added. This solution is then mixed with a solution of 4-(4-Methyl-piperazin-1-yl)-phenylamine (450 mg, 2.4 mmol) in toluene (4 mL) and the mixture is heated at reflux for 6 hours. The mixture is then allowed to cool to room temperature, upon cooling, precipitates formed. The precipitate is collected and further purified through chromatography to provide the title compound (120 mg, 31%). MS (ESI): 455.1, 457.1 (M+1)+1.

reactant | 6-Bromo-1,1-dimethyl-1,4-dihydro-2H-isoquinolin-3-one | 0.83 mmol, 210 mg | BrC=1C=C2CC(NC(C2=CC1)(C)C)=O | C11H12BrNO
reactant | dimethoxymethyl-dimethyl-amine | 2.1 mmol, 250 mg | COC(OC)N(C)C | C5H13NO2
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 2.4 mmol, 450 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-1,1-dimethyl-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-1,4-dihydro-2H-isoquinolin-3-one | 120 mg, 31% | BrC=1C=C2C(C(NC(C2=CC1)(C)C)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C23H27BrN4O
